US09056844B2
Preparation 3: Di-tert-butyl (1S,2S,5R,6S)-2-[(tert-butoxycarbonyl)amino]bicyclo[3.1.0]hex-3-ene-2,6-dicarboxylate
Add 1M tetrabutylammonium fluoride in tetrahydrofuran (3.84 mL, 3.84 mmol) to di-tert-butyl (1S,2S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-4-[(methylsulfonyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate (600.00 mg, 1.22 mmol) in tetrahydrofuran (2.03 mL) and heat at reflux for 3 hours. The reaction is then cooled to room temperature, diluted with water, and extracted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by flash chromatography eluting with 5-75% ethyl acetate in hexanes to give the title compound (0.23 g, 0.58 mmol, 48%).

reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | di-tert-butyl (1S,2S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-4-[(methylsulfonyl)oxy]bicyclo[3.1.0]hexane-2,6-dicarboxylate | 1.22 mmol, 600.00 mg | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@H](C1)OS(=O)(=O)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H37NO9S
solvent | tetrahydrofuran | 2.03 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | tetrahydrofuran | 3.84 mmol, 3.84 mL | O1CCCC1 | C4H8O
product | Di-tert-butyl (1S,2S,5R,6S)-2-[(tert-butoxycarbonyl)amino]bicyclo[3.1.0]hex-3-ene-2,6-dicarboxylate | 0.58 mmol, 0.23 g, 48% | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2C=C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C21H33NO6
